Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I want ECT"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with MDD, recurrent,
history of numerous psychiatric hosp on ___, history of SA in
___ via OD on ___ clonipine presents today with SI and plan to 
OD
on medications. He is also requesting ECT. The patient says that
he has had passive SI for the last ___ years stating "I think
about death all the time." Today he woke up and felt
"overwhelmed." He explains that he lives at home with his 
mother,
father, and brother but that the mother was recently diagnosed
with Alzheimer's and is deteriorating. The father recently told
the patient that he will need to sell the family home so he can
put the mother is a nursing home which means the patient will be
homeless. The patient also reports frequent fights with his
alcoholic brother and notes they fight "all the time." He also
reports his psychiatric care is in flux and his psychiatrist Dr.
___ left ___ and he was has not yet met his new
permanent psychiatrist Dr. ___. He has seen Dr. ___ once
as a "transition" he explains. He does take all his medications
which he reports have not changed in ___ years. He also reports
this summer he suffered from Bells Palsy and although he now has
almost full use of his facial muscles, he is sad that he now
sometimes slurs his speech. The patient says due to these
stressors today he felt like taking "some pills, I am not sure
which  I would use" with the goal of "ending it." He says he 
told
his parents to drive him to the ED. The patient says that if
discharged home he hopes he would not hurt himself but is afraid
that he might kill himself. He denies access to any weapons.

The father says he is "surprised" to hear his son is suicidal
here in the ED and says his son told him to drive him to the ED
for a regular appointment. He says that when his son tried to
kill himself via OD ___ years back that the patient seemed "a lot
more down and out" than he does now. The father endorses the
above history and says the patient "spends all his time in his
room except for meals. He never really talks with us." The 
father
says this is baseline behavior for the patient. He says he is
however unsure if the patient would be safe to go home because 
he
is concerned his son would say such.

The patient says he used to actually work here as an
___ in the cardiology division but ___ years ago his MDD
became so strong that he had to quit. He notes he was tried on
many medications but felt that the 9 rounds of ECT he got during
four of his previous Deac 4 stays helped him "the most" and 
today
he is requesting ECT. He says he could not get maintainence ECT
because insurance would not cover such. He says his last ECT
course parallels his last admission to Deac 4, approximately ___
years ago.

 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
- Psoriasis with scalp and forehead involement.
- Major Depression: Diagnosed with major depression in ___. 
Hospitalized multiple times for depression. His first 
hospitalization occured in ___ after overdosing on a bottle of 
klonopin leading to a 3 week hospitalization. His most recent 
hospitalization was over the ___ of ___ and lasted 10 days. 
He has had two suicide attempts in the past, in ___ and ___ 
both through medication overdose.

PAST PSYCHIATRIC HISTORY: 
-Diagnoses: MDD

-Prior Hospitalizations: x5 on Deac 4, last time was ___ years
ago. Also at ___ ___ years ago.

-History of assaultive behaviors: No

-History of suicide attempts or self-injurious behavior: ___ years
ago patient took 30 clonidine in SA. 

-Prior med trials: "Many, only ECT really helped"
 
-Psychiatrist: Was Dr. ___ Dr ___ set 
up to meet with Dr ___. 

 
Social History:
___
Family History:
His oldest sister suffers from depression and takes medications 
though the patient is unaware what she takes. She has never had 
ECT, hospitalizations or suicide attempts. She is disabeled 
after an accident left her with brain damage. 
 
Physical Exam:
VS:  BP:104/92   HR:74   temp:97.9    Resp:16   O2 sat: 97% RA 
weight: 182.4
 
MENTAL STATUS EXAM:
--appearance: poor grooming, middle aged man 
--behavior/attitude: cooperative, good eye contact
--speech: normal rate and tone, no dysarthria/aphasia
--mood: "glad to be here"
--affect: depressed
--thought content: SI, no AVH, no HI
--thought process: Linear
--perception: no apparent AH, delusions, paranoia
--SI/HI: endorses SI, denies HI.  
--insight: fair
--judgment: fair
 
COGNITIVE EXAM:
--orientation: oriented to person, place, day, month, year,
situation 
--attention/concentration: Able to recite MOYB
--memory (table, apple, ___: immediate recall intact, remote
recall ___. 
--calculations: correctly calculates 7 quarters in $1.75
--language: grossly intact
--fund of knowledge: 
--proverbs: "grass is always greener on the other side"
--similarities/analogies: "train/plane" 
 
PE:
General: HEENT: Normocephalic. EOMI.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops.
Abdomen: Soft, nontender, nondistended
Extremities: No edema. 
Skin: Warm and dry, no rash or significant lesions.

Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Unable to assess.
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength intact and symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius strength intact.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, tremors. Strength full power ___ throughout. 
  *Sensation- Intact to light touch throughout.
 
Pertinent Results:
___ 03:45PM URINE  HOURS-RANDOM
___ 03:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 03:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:09PM   GLUCOSE-106* UREA N-16 CREAT-1.1 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-27 ANION GAP-14
___ 12:09PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:09PM   WBC-8.6 RBC-5.22 HGB-16.5 HCT-48.1 MCV-92 
MCH-31.6 MCHC-34.2 RDW-12.9
___ 12:09PM   NEUTS-72.3* ___ MONOS-3.9 EOS-1.0 
BASOS-0.8
___ 12:09PM   PLT COUNT-278
 
Brief Hospital Course:
PSYCHIATRIC

#) DEPRESSION WITH SUICIDAL THOUGHTS

Pt presents with recurrent depression manifested by the 
following upon arrival to the unit:
-low mood
-anhedonia (previously had friends, job and social life- now 
secludes and rarely goes out of his home.  Seen on the unit to 
be withdrawn, dysphoric despite attendance at groups - did not 
appear to be taking pleasure out of activities)
-guilt and low esteem (pt feels embarassed and shamed over his 
decline from professional status to unemployment and living with 
parents)
-anergia 
-pmr (pt had reported that prior to hospitalization he mostly 
lie in bed x 18 hrs/day)
-suicidal thoughts (pt with active thoughts of overdosing and 
killing himself)

We determined that although the above sx were undoubtedly 
perpetuated by monthly cocaine use x appx ___ years, the pt 
seemed to have an organic, severe, and recurrent depression.  
Upon collateral from pt's outpt providers and Dr. ___, 
___ had done well in the past with ECT.

The team initiated ECT treatments for Mr. ___ which began on 
___.  On his first tx was difficult to induce a seizure, so 
we decreased his standing dose of Klonopin to 0.5mg TID.  Mr. 
___ had a total of 5 ECT treatments prior to discharge.  He 
tolerated the treatments well with no cognitive decline and 
signficant mood improvement marked by the following; slightly 
brighter affect, lack of suicidal thoughts, more interest in the 
future and socialization.  

In addition to ECT, we increased Celexa to 40mg daily.  The pt 
was reminded of risks including but not limited to; sedation, 
and sexual changes.  Due to an intolerable tremor (LUE>RUE) we 
discontinued his abilify. At time of discharge, patient still 
had mild LUE tremor which he reported existed prior to starting 
Abilify. 

Mr. ___ was given information about MAOIs and their benefits 
in patients with treatment refractory depression.  Although this 
medication is currently contraindicated given his co-morbid 
cocaine use and potential for labile blood pressures, we advised 
Mr. ___ that in the future, if he achieved sobriety and could 
follow strict dietary restrictions, an MAOI could possibly be 
considered by the outpatient team.  

In summary, Mr. ___ mood slightly improved during his 
hospitalization but he still lacked some spontaneity, while his 
affect was brighter it was still not completely reactive.  He 
denied si and acknowledged that the team can't read his mind and 
failure to reveal such thoughts could lead to a poor outcome and 
his own health risk. He remained disheveled on the unit and 
became focused on d/c as opposed to reviewing his initial 
presentation and plans to get better.  

#) H/O NON-COMPLIANCE
One day, Mr. ___ surprised the team by announcing in the AM 
that he had called his parents to pick him up and take him home. 
 Although we had agreed to d/c him the following day, Mr. ___ 
said that he decided it was time for him to leave and he 
couldn't stay another day.  After disclosing to us that he had 
lied about a plan to travel with his parents to ___ for 
___, he shared his thoughts that he was not benefiting 
from hosptialization and preferred to go home.  Since his 
parents are elderly and travelled over an hour to come to the 
hospital, he was adamant we d/c him home.  The pt then later 
revealed that he had legal troubles and a court date for 
___ which he wanted to attend to.  He refused to give us 
any further details.  Since we were going to d/c him the 
following day, and he was safe, we saw no reason to keep him 
hospitalized further despite our surprise at his impromptu d/c 
plan.  We met with his family and firmly gave our opinion that 
the pt must f/u as directed to assure success with his tx of 
depression. 

#) COCAINE ABUSE
The pt reported using about $40/month of cocaine.  He was warned 
of the dangers of drug use in terms of CV events, death, and 
worsening depression. Pt was receptive to this information along 
with our recommendation that he engage in AA/NA for sobriety.  
On the unit, he did attend these groups and remained open to 
considering outpatient referrals for cont'd help with sobriety.  


#) DEPENDENT PERSONALITY TRAITS
Pt exhibited significant dependence on his family for support 
and meeting daily needs.  He has little motivation to detach 
from his core unit, although circumstances may dictate that he 
needs to gain independence in the near future, which could be 
further destabilizing for him.
Pt has some insight into his "co-dependency" with his family

GENERAL MEDICAL CONDITIONS
#) H/O BELLS PALSY - no acute issues on the unit

PSYCHOSOCIAL

#) COLLATERAL
-Records were sought from ___ where the pt was 
hospitalized ___ years ago
-Dr. ___ has treated the pt before with ECT 
provided information that ECT was highly beneficial to the 
patient.  The problem in the past, however, was that upon d/c 
from the hospital, the pt did not f/u with outpt maintenance.

#) FAMILY CONTACT
-Pt's father, ___, was informed of the pt's progress 
throughout his hospital stay.
-Due to the pt's cocaine use in the home, and his parents being 
elderly, we had some concerns for elder abuse.  ___ assisted 
us in contacting the pt's family who reported no concerns for 
their safety and we did not file with elder services.
-Prior to discharge, a family meeting was held with the care 
team, the patient, and the patient's parents.  The prognosis and 
the need for ongoing treatment were reinforced with the parents.

#) INTERVENTIONS
A DMH (dept of mental health) application was filed for the 
patient with his consent.  Specific interventions that we are 
hoping for include:
-case management (pt faces financial troubles and possible 
housing difficulties in about 6 months as his parents are 
selling their house and moving to assisted living)
-vocational /job training (the pt has a h/o working at a high 
level and would likely feel a great sense of pride and 
accomplishment if he were to return to the workplace) 
-psychiatry/therapy services
-socialization via a day program/clubhouse
-community based flexible support person (pt needs support 
around sobriety and would benefit from a sponsor and information 
about AA/NA)

#) GROUPS/MILIEU
-The pt attended most groups on the unit.  He initially went to 
the groups despite appearing apathetic and withdrawn.  After 
receiving ECT tx, he interistingly showed less motivation for 
groups and started to minimize the importance of 
hospitalization.

LEGAL STATUS
Pt remained on a CV throughout the duration of the 
hospitalization

RISK ASSESSMENT
This pt has a chronically elevated risk of suicide, although his 
immediate risk has been significantly reduced.  
Risk factors include: major depression that is severe and 
recurrent, history of multiple suicide attempts, co-morbid 
substance abuse, h/o non-compliance with follow-up, is 
unemployed, single, and lacks much socialization.  He is also 
facing possible homelessness and financial crisis within the 
next six months.

To reduce his risk, we have established the pt with DMH 
services, treated his depression with ECT and inc'd dose of SSRI 
(which has shown great benefit), and educated the pt about the 
dangers of drug use in terms of worsening his depression.  We 
have also given him considerable education about the importance 
of cocaine abstinence and have recommended AA/NA meetings.  Mr. 
___ parents collected him on the date of discharge and are 
aware of his depression and need for close f/u with outpt and 
ECT maintenance.  There are no weapons at home, and everyone 
agreed that he seemed safe for discharge. 

At the time of discharge, Mr. ___ is still dysphoric but 
improved from the acute depressive episode leading to 
hospitalization.  His prognosis is guarded given his h/o 
noncompliance/recurrent depression/failure to go to maintenance 
ECT.  Should he comply with treatment, however, he would have a 
very favorable prognosis and we have educated him about such. 
 
Medications on Admission:
-Citalopram 20mg
-Abilify 20mg
-Ambien 10mg
-Clonopin 1mg TID

 
Discharge Medications:
1. Citalopram 40 mg PO HS 
RX *citalopram 40 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0
2. Clobetasol Propionate 0.05% Cream 1 Appl TP BID:PRN Psoriasis 

3. Clonazepam 0.5 mg PO TID 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0
4. Zolpidem Tartrate 10 mg PO HS 
RX *zolpidem 10 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I Major Depression, Recurrent and severe

II dependent personality traits

III h/o bell's palsy
 
Discharge Condition:
stable
 
Discharge Instructions:
Mr ___, 
___ were admitted with major depression with symptoms of low 
mood, suicidal thoughts, excessive sleep, decreased motivation, 
decreased interest, decreased concentration, and poor energy. 
While there are psychosocial sterssors contributing to the 
depression, the cocaine use also contributes to depressed mood. 
It is imperative to abstain from any drug or alcohol use. 
Additionally, it is important to continue to take medications 
and continue with ECT treatments. Please follow up with your 
primary care doctor and psychiatry follow up. The Department of 
Mental Health will also be in contact with ___ to offer 
additional services. While ___ are no longer have suicidal 
thinking and appear brighter, we feel that ___ are still 
depressed and need to stay motivated for treatment and 
socialization. 

We wish ___ the best of health and happiness. 
 
Followup Instructions:
___